datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)[NH+](CCC(c1ccccc1)c1cccc[n:10]1)C(C)C.N#CC1=C(c2nc3ccccc3o2)C(=O)Oc2cc([O:21][H:20])ccc21>>CC(C)[NH+](CCC(c1ccccc1)c1cccc[n+:10]1[H:20])C(C)C.N#CC1=C(c2nc3ccccc3o2)C(=O)Oc2cc([O-:21])ccc21 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].c1ccc2c(c1)CNCCC[NH:10]Cc1ccccc1OCCO2>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].c1ccc2c(c1)CNCCC[NH+:10]([H:20])Cc1ccccc1OCCO2 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CCCC.C[N+:21](C)(Cc1cc([N+](=O)[O-])ccc1[O-])[H:20]>>C=C(C)C(=O)OCC[NH+:10](CCCC)[H:20].C[N:21](C)Cc1cc([N+](=O)[O-])ccc1[O-] 10=20;20,21=21",
"COC(=O)[n+]1ccc([NH:21][H:20])cc1.O=C1CCC(=O)[N-:10]1>>COC(=O)[n+]1ccc([NH-:21])cc1.O=C1CCC(=O)[N:10]1[H:20] 10=20;20,21=21",
"CCC#CC(=O)[O:21][H:20].COc1cccc([NH2:10])c1>>CCC#CC(=O)[O-:21].COc1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"Cc1cc(C)cc(/C(c2ccccc2)=[NH+:21]/[H:20])c1.[NH3+]C(Cc1ccccc1)c1nnn[n-:10]1>>Cc1cc(C)cc(C(c2ccccc2)=[NH:21])c1.[NH3+]C(Cc1ccccc1)c1nnn[n:10]1[H:20] 10=20;20,21=21",
"CC(C)[NH:10]CC(=O)c1ccc([O-])cc1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)[NH+:10](CC(=O)c1ccc([O-])cc1)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[N:10](C)Cc1cc(C(=O)c2ccccc2)ccc1[O-].Oc1ccc([O:21][H:20])c(Cl)c1>>C[N+:10](C)(Cc1cc(C(=O)c2ccccc2)ccc1[O-])[H:20].Oc1ccc([O-:21])c(Cl)c1 10=20;20,21=21",
"Cc1cc(C)c(C[NH2:10])cc1N.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(C)c(C[NH2+:10][H:20])cc1N.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)c1nnn[n:21]1[H:20].O=C([O-])c1ccc([NH-:10])c2cccnc12>>CC(C)c1nnn[n-:21]1.O=C([O-])c1ccc([NH:10][H:20])c2cccnc12 10=20;20,21=21",
"CCS/C(c1ccc(OC)cc1)=[O+:21]\[H:20].c1ccc(-c2[nH]cc[n:10]2)cc1>>CCSC(c1ccc(OC)cc1)=[O:21].c1ccc(-c2[nH]cc[n+:10]2[H:20])cc1 10=20;20,21=21",
"CC[N:10](CC)CCCNc1ccnc2ccccc12.Cc1c(Cl)cccc1C(=O)[O:21][H:20]>>CC[N+:10](CC)(CCCNc1ccnc2ccccc12)[H:20].Cc1c(Cl)cccc1C(=O)[O-:21] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cncnc2[n+:21]1[H:20].COc1ccc(S(=O)(=O)NCC[N:10]2CCOCC2)c(OC)c1OC>>COc1cc(S(C)=O)ccc1-c1[nH]c2cncnc2[n:21]1.COc1ccc(S(=O)(=O)NCC[N+:10]2([H:20])CCOCC2)c(OC)c1OC 10=20;20,21=21",
"Cc1cc(C2(c3ccc([O-:10])c(C)c3)OS(=O)(=O)c3c(Br)c(Br)c(Br)c(Br)c32)ccc1O.c1nc(C[S:21][H:20])c[nH]1>>Cc1cc(C2(c3ccc([O:10][H:20])c(C)c3)OS(=O)(=O)c3c(Br)c(Br)c(Br)c(Br)c32)ccc1O.c1nc(C[S-:21])c[nH]1 10=20;20,21=21",
"CCC(=O)O[C@@]1(c2ccccc2)CC[N:10](C)C[C@H]1C.Nc1nc(N)c2[nH]c(N)[n+:21]([H:20])c2n1>>CCC(=O)O[C@@]1(c2ccccc2)CC[N+:10](C)([H:20])C[C@H]1C.Nc1nc(N)c2[nH]c(N)[n:21]c2n1 10=20;20,21=21",
"CCN(CC)Cc1cc(F)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCN(CC)Cc1cc(F)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC[N:10](CCCl)CCCl.FC(F)(F)c1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1>>CCC[N+:10](CCCl)(CCCl)[H:20].FC(F)(F)c1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"Cc1ccc(C)c(C(=O)C(=O)[O-:10])c1.NC(=NO)C(c1ccccc1)[NH2+:21][H:20]>>Cc1ccc(C)c(C(=O)C(=O)[O:10][H:20])c1.NC(=NO)C(c1ccccc1)[NH2:21] 10=20;20,21=21",
"OCNc1nc(NCO)[n:10]c(NCO)n1.[S-]c1c[n+:21]([H:20])c2ccccc2[nH+]1>>OCNc1nc(NCO)[n+:10]([H:20])c(NCO)n1.[S-]c1c[n:21]c2ccccc2[nH+]1 10=20;20,21=21",
"CC1=C(C(C)C)/C(=[O+:21]\[H:20])N(c2ccccc2)N1C.c1ccc2c(c1)nn[n-:10]2>>CC1=C(C(C)C)C(=[O:21])N(c2ccccc2)N1C.c1ccc2c(c1)nn[n:10]2[H:20] 10=20;20,21=21",
"CC[N:10](CC)CCCNS(=O)(=O)c1ccc(OC)c(OC)c1OC.Cc1cc(-n2c(C)cc(C)[n+:21]2[H:20])[nH]n1>>CC[N+:10](CC)(CCCNS(=O)(=O)c1ccc(OC)c(OC)c1OC)[H:20].Cc1cc(-n2c(C)cc(C)[n:21]2)[nH]n1 10=20;20,21=21",
"O[C@H](c1ccccc1)[C@@H](c1ccccc1)[NH2:10].c1coc(C2C[N+:21]3([H:20])CCC2CC3)c1>>O[C@H](c1ccccc1)[C@@H](c1ccccc1)[NH2+:10][H:20].c1coc(C2C[N:21]3CCC2CC3)c1 10=20;20,21=21",
"CC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1>>CC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1 10=20;20,21=21",
"CN(C)c1ccc([N+:21](C)(C)[H:20])cc1.O=C1NC(=S)c2[nH]c[n:10]c2N1>>CN(C)c1ccc([N:21](C)C)cc1.O=C1NC(=S)c2[nH]c[n+:10]([H:20])c2N1 10=20;20,21=21",
"Cc1ccc([O-:10])cc1C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc([O:10][H:20])cc1C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCN(CC)C(=O)C[NH+:21](CC)[H:20].c1ncc2cc([O-:10])ccc2n1>>CCN(CC)C(=O)C[NH:21]CC.c1ncc2cc([O:10][H:20])ccc2n1 10=20;20,21=21",
"Nc1ccc([O-:10])c([N+](=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Nc1ccc([O:10][H:20])c([N+](=O)[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1ccccc1B(O)[O:21][H:20].[O-]c1cc([O-:10])cc[nH+]1>>Nc1ccccc1B(O)[O-:21].[O-]c1cc([O:10][H:20])cc[nH+]1 10=20;20,21=21",
"COc1c(O)cccc1C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1c(O)cccc1C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
